### PR TITLE
[Merged by Bors] - refactor(Algebra/GeometricallyReduced): refactor `Algebra.IsGeometricallyReduced`

### PR DESCRIPTION
**Pull request by Thmoas-Guan**
Refactor `Algebra.IsGeometricallyReduced` to adapt to a general algebra over commutative ring.

In the up-coming #39141, we prove that this definition makes the base change to any field reduced.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Nilpotent/GeometricallyReduced.lean [hunk 1]
```diff
@@ -7,12 +7,16 @@ module
...
 /-!
 # Geometrically reduced algebras
 
 In this file we introduce geometrically reduced algebras.
-For a field `k`, we say that a `k`-algebra `A` is geometrically reduced (`IsGeometricallyReduced`)
+For commutative ring `R` and `R`-algebra `A`, `A` is geometrically reduced
+(`IsGeometricallyReduced`) if base change of `A` to all algebraic closure of residue field of prime
+ideal of `R`.
+Especially, for field `k`, we say that a `k`-algebra `A` is geometrically reduced
 if the tensor product `AlgebraicClosure k ⊗[k] A` is reduced.
```
Comment (chrisflav) [inline Mathlib/RingTheory/Nilpotent/GeometricallyReduced.lean]:
```suggestion
For a commutative ring `R` and `R`-algebra `A`, we say that `A` is geometrically reduced
(`IsGeometricallyReduced`) if for every prime ideal `p` of `R`, the base change of `A`
to an algebraic closure of `κ(p)` is reduced.
In the case of `R = k` a field, this is equivalent to `AlgebraicClosure k ⊗[k] A` being reduced.
```

File: Mathlib/RingTheory/Nilpotent/GeometricallyReduced.lean [hunk 2]
```diff
@@ -26,8 +30,8 @@ if the tensor product `AlgebraicClosure k ⊗[k] A` is reduced.
   equivalent (see TODO).
 
 ## TODO
-- Prove that if `A` is a geometrically reduced `k`-algebra, then for every field extension `K` of
-  `k` the `K`-algebra `K ⊗[k] A` is reduced.
+- Prove that if `A` is a geometrically reduced `R`-algebra, then for every `R`-algebra `K` that is
+  a field, `K ⊗[k] A` is reduced.
```
Comment (chrisflav) [inline Mathlib/RingTheory/Nilpotent/GeometricallyReduced.lean]:
```suggestion
- Prove that if `A` is a geometrically reduced `R`-algebra, then for every `R`-algebra `K` that is
  a field, the tensor product `K ⊗[R] A` is reduced.
```

File: Mathlib/RingTheory/Nilpotent/GeometricallyReduced.lean [hunk 3]
```diff
@@ -41,24 +45,43 @@ namespace Algebra
 
 variable {k A : Type*} [Field k] [Ring A] [Algebra k A]
 
-/-- The `k`-algebra `A` is geometrically reduced iff its base change to `AlgebraicClosure k` is
-  reduced. -/
+/-- An `R`-algebra `A` is geometrically reduced iff its base change to
+  all `AlgebraicClosure p.ResidueField` are reduced, wher `p` is a prime ideal of `R`. -/
```
Comment (chrisflav) [inline Mathlib/RingTheory/Nilpotent/GeometricallyReduced.lean]:
```suggestion
/-- An `R`-algebra `A` is geometrically reduced iff for every prime ideal `p` of R`
  the base change to `AlgebraicClosure p.ResidueField` is reduced. -/
```

File: Mathlib/RingTheory/Nilpotent/GeometricallyReduced.lean [hunk 4]
```diff
@@ -41,24 +45,43 @@ namespace Algebra
...
+attribute [instance] IsGeometricallyReduced.isReduced_algebraicClosure_residueField_tensorProduct
+
+section Field
+
+lemma isGeometricallyReduced_field_iff (k A : Type*) [Field k] [Ring A] [Algebra k A] :
+    IsGeometricallyReduced k A ↔ IsReduced (AlgebraicClosure k ⊗[k] A) := by
+  let e' (p : Ideal k) [p.IsPrime] : k ≃ₐ[k] p.ResidueField :=
+    AlgEquiv.ofBijective (Algebra.ofId k _) ⟨RingHom.injective _,
+      haveI : p.IsMaximal := by simpa [p.eq_bot_of_prime] using Ideal.bot_isMaximal
+      p.algebraMap_residueField_surjective⟩
```
Comment (chrisflav) [inline Mathlib/RingTheory/Nilpotent/GeometricallyReduced.lean]: Could you please make this a separate declaration?

File: Mathlib/RingTheory/Nilpotent/GeometricallyReduced.lean [hunk 5]
```diff
@@ -41,24 +45,43 @@ namespace Algebra
...
+  exact isReduced_of_injective
     (Algebra.TensorProduct.map ((IsAlgClosed.lift : K →ₐ[k] AlgebraicClosure k)) 1)
     (Module.Flat.rTensor_preserves_injective_linearMap _ (RingHom.injective _))
 
 lemma IsGeometricallyReduced.of_injective {B : Type*} [Ring B] [Algebra k B] (f : A →ₐ[k] B)
-    (hf : Function.Injective f) [IsGeometricallyReduced k B] : IsGeometricallyReduced k A :=
-  ⟨isReduced_of_injective (Algebra.TensorProduct.map 1 f)
-    (Module.Flat.lTensor_preserves_injective_linearMap _ hf)⟩
+    (hf : Function.Injective f) [IsGeometricallyReduced k B] : IsGeometricallyReduced k A := by
+  have := (isGeometricallyReduced_field_iff k B).mp ‹_›
```
Comment (chrisflav) [inline Mathlib/RingTheory/Nilpotent/GeometricallyReduced.lean]: Why is the instance above not triggering here?

**Review by chrisflav — COMMENTED** [review]
Do you already have a `sorry`-free proof of the `TODO`? If yes, could you please point to it in the PR description, so that it is clear that this definition is correct?

File: Mathlib/RingTheory/Nilpotent/GeometricallyReduced.lean (hunk 5 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/Nilpotent/GeometricallyReduced.lean]: I should just delete the have...

**Comment by Thmoas-Guan** [comment]
> Do you already have a `sorry`-free proof of the `TODO`? If yes, could you please point to it in the PR description, so that it is clear that this definition is correct?

Probably I should edit the TODO too to point out I have it?

File: Mathlib/RingTheory/Nilpotent/GeometricallyReduced.lean [hunk 6]
```diff
@@ -41,38 +44,54 @@ namespace Algebra
...
-/-- The `k`-algebra `A` is geometrically reduced iff its base change to `AlgebraicClosure k` is
-  reduced. -/
+/-- An `R`-algebra `A` is geometrically reduced iff for every prime ideal `p` of R`
+  the base change to `AlgebraicClosure p.ResidueField` is reduced. -/
 @[mk_iff]
-class IsGeometricallyReduced (k A : Type*) [Field k] [Ring A] [Algebra k A] : Prop where
-  isReduced_algebraicClosure_tensorProduct : IsReduced (AlgebraicClosure k ⊗[k] A)
+class IsGeometricallyReduced (R A : Type*) [CommRing R] [Ring A] [Algebra R A] : Prop where
+  isReduced_algebraicClosure_residueField_tensorProduct (p : Ideal R) [p.IsPrime] :
+  IsReduced (AlgebraicClosure p.ResidueField ⊗[R] A)
```
Comment (chrisflav) [inline Mathlib/RingTheory/Nilpotent/GeometricallyReduced.lean]:
```suggestion
    IsReduced (AlgebraicClosure p.ResidueField ⊗[R] A)
```

File: Mathlib/RingTheory/LocalRing/ResidueField/Ideal.lean [hunk 7]
```diff
@@ -140,6 +140,13 @@ lemma Ideal.algebraMap_residueField_surjective (I : Ideal R) [I.IsMaximal] :
 instance (I : Ideal R) [I.IsMaximal] : Module.Finite R I.ResidueField :=
   .of_surjective (Algebra.linearMap _ _) I.algebraMap_residueField_surjective
 
+/-- The equivalence between a field and residue field of its prime ideal, induced by algebra map. -/
+noncomputable def Ideal.AlgEquivResidueFieldOfField {k : Type*} [Field k]
```
Comment (chrisflav) [inline Mathlib/RingTheory/LocalRing/ResidueField/Ideal.lean]:
```suggestion
noncomputable def Ideal.algEquivResidueFieldOfField {k : Type*} [Field k]
```

**Review by chrisflav — APPROVED** [review]
Thanks!
maintainer merge

File: Mathlib/RingTheory/LocalRing/ResidueField/Ideal.lean [hunk 8]
```diff
@@ -140,6 +140,18 @@ lemma Ideal.algebraMap_residueField_surjective (I : Ideal R) [I.IsMaximal] :
 instance (I : Ideal R) [I.IsMaximal] : Module.Finite R I.ResidueField :=
   .of_surjective (Algebra.linearMap _ _) I.algebraMap_residueField_surjective
 
+/-- The equivalence between a field and residue field of its prime ideal, induced by algebra map. -/
```
Comment (faenuccio) [inline Mathlib/RingTheory/LocalRing/ResidueField/Ideal.lean]: Can you fix the englisna bit (the residue field, an algebra map)? Thanks

File: Mathlib/RingTheory/Nilpotent/GeometricallyReduced.lean [hunk 9]
```diff
@@ -7,13 +7,16 @@ module
...
 public import Mathlib.RingTheory.Flat.Basic
+public import Mathlib.RingTheory.LocalRing.ResidueField.Ideal
 
 /-!
 # Geometrically reduced algebras
 
 In this file we introduce geometrically reduced algebras.
-For a field `k`, we say that a `k`-algebra `A` is geometrically reduced (`IsGeometricallyReduced`)
-if the tensor product `AlgebraicClosure k ⊗[k] A` is reduced.
+For a commutative ring `R` and `R`-algebra `A`, we say that `A` is geometrically reduced
```
Comment (faenuccio) [inline Mathlib/RingTheory/Nilpotent/GeometricallyReduced.lean]: And an R-algebra A

File: Mathlib/RingTheory/Nilpotent/GeometricallyReduced.lean [hunk 10]
```diff
@@ -7,13 +7,16 @@ module
...
+(`IsGeometricallyReduced`) if for every prime ideal `p` of `R`, the base change of `A`
+to an algebraic closure of `κ(p)` is reduced.
+In the case of `R = k` a field, this is equivalent to `AlgebraicClosure k ⊗[k] A` being reduced.
```
Comment (faenuccio) [inline Mathlib/RingTheory/Nilpotent/GeometricallyReduced.lean:19]: Can you point tonwhere this equivalence in the case of fields is proven?

**Comment by faenuccio** [comment]
Thanks, I've added a couple of linguistic comments, once addressed it'll be ready to go.

File: Mathlib/RingTheory/Nilpotent/GeometricallyReduced.lean (hunk 10 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/Nilpotent/GeometricallyReduced.lean:19]: I added it in main results.

Comment (faenuccio) [reply Mathlib/RingTheory/Nilpotent/GeometricallyReduced.lean:19]: Thanks!
